US06784192B2
1-[(2-Methoxy-3-pyridyl)methyl]-4-[2-(methylsulfonyl)-3,4-methylenedioxyphenethyl]piperidine
800 mg of 1-[(2-methoxy-3-pyridyl)methyl]-4-piperidinecarboxaldehyde, 1.90 g of [2-(methylsulfonyl)-3,4-methylenedioxybenzyl]triphenylphosphonium bromide and 384 mg of potassium tert-butoxide were suspended in 10 ml of N,N-dimethylformamide, and the mixture was stirred for 1 hour at room temperature. Water was added to the reaction solution, and the mixture was extracted with ethyl acetate. The organic layer was washed with brine, and then dried over anhydrous magnesium sulfate. The solvent was evaporated, and the crude product was purified by NH form silica gel column chromatography (ethyl acetate:hexane=1:4). The resulting product and 400 mg of 10% palladium-carbon powder (water-containing product) were suspended in 40 ml of ethanol. After replacing the atmosphere of a container with hydrogen, the mixture was stirred at room temperature under normal pressure for 30 minutes. The reaction solution was filtered, and the filtrate was evaporated, to give the title compound as a colorless oil (quantitatively).

reactant | 1-[(2-methoxy-3-pyridyl)methyl]-4-piperidinecarboxaldehyde | 800 mg | COC1=NC=CC=C1CN1CCC(CC1)C=O | C13H18N2O2
reactant | [2-(methylsulfonyl)-3,4-methylenedioxybenzyl]triphenylphosphonium bromide | 1.90 g | [Br-].CS(=O)(=O)C1=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=CC2=C1OCO2
reactant | potassium tert-butoxide | 384 mg | CC(C)([O-])C.[K+]
reactant | hydrogen | [H][H] | H2
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | ethanol | 40 ml | C(C)O | C2H6O
catalyst | palladium-carbon | 400 mg | [C].[Pd]
solvent | Water | O | H2O
product | 1-[(2-Methoxy-3-pyridyl)methyl]-4-[2-(methylsulfonyl)-3,4-methylenedioxyphenethyl]piperidine | COC1=NC=CC=C1CN1CCC(CC1)CCC1=C(C2=C(C=C1)OCO2)S(=O)(=O)C | C22H28N2O5S
